US06348474B1
4-Chloro-6-quinolinecarbonitrile
Phosphorus oxychloride (0.518 ml) was added to DMF (9 ml) at an inner temperature of 5-7° C. while stirring under ice-cooling, and the mixture was stirred at room temperature for 0.5 hr. 4-Hydroxy-6-quinolinecarbonitrile (860 mg) was added while stirring under ice-cooling and the mixture was stirred under ice-cooling for 1 hr. 1N aqueous sodium hydroxide solution (18 ml) was added and the mixture was stirred at room temperature for 10 min. The precipitate was collected by filtration and washed with water to give a pale brown powder. The obtained powder was purified by silica gel column chromatography (eluent: chloroform-methanol=50/1) to give the object compound (800 mg) as a pale yellow powder.

reactant | Phosphorus oxychloride | 0.518 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-Hydroxy-6-quinolinecarbonitrile | 860 mg | OC1=CC=NC2=CC=C(C=C12)C#N | C10H6N2O
reactant | sodium hydroxide | 1N, 18 ml | [OH-].[Na+]
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-6-quinolinecarbonitrile | 800 mg | ClC1=CC=NC2=CC=C(C=C12)C#N | C10H5ClN2
